US04336384
It is known that 4-amino-3,5,6-trichloropicolinic acid is prepared by a two-step method where heptachloro-2-picoline is aminated with anhydrous liquid ammonia to form 4-amino-hexachloro-2-picoline, an intermediate product that is isolated, and which is in turn hydrolyzed with sulfuric acid to form 4-amino-3,5,6-trichloropicolinic acid. See, for example, Russian Pat. No. 445,662.

reactant | 4-amino-3,5,6-trichloropicolinic acid | NC1=C(C(=NC(=C1Cl)Cl)C(=O)O)Cl | C6H3Cl3N2O2
reactant | heptachloro-2-picoline | ClC(C1=NC(=C(C(=C1Cl)Cl)Cl)Cl)(Cl)Cl | C6Cl7N
reactant | ammonia | N | H3N
product | 4-amino-hexachloro-2-picoline | NC1=C(C(=NC(=C1Cl)Cl)C(Cl)(Cl)Cl)Cl | C6H2Cl6N2
